US08580794B2
4-(2-methoxyethylamino)-3-(trifluoromethylsulfonyl)benzenesulfonamide
4-Fluoro-3-(trifluoromethylsulfonyl)benzenesulfonamide (1.536 g, 5 mmol), 2-methoxyethanamine (0.376 g, 5 mmol), and triethylamine (1.939 g, 15 mmol) in anhydrous tetrahydrofuran (30 mL) solution was heated at 55° C. for 3 hours. The solution was diluted with ethyl acetate, washed with water and brine, and dried (Na2SO4), filtered and the filtrate was concentrated. The crude material was used in the next step without further purification.

reactant | 4-Fluoro-3-(trifluoromethylsulfonyl)benzenesulfonamide | 5 mmol, 1.536 g | FC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C7H5F4NO4S2
reactant | 2-methoxyethanamine | 5 mmol, 0.376 g | COCCN | C3H9NO
reactant | triethylamine | 15 mmol, 1.939 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(2-methoxyethylamino)-3-(trifluoromethylsulfonyl)benzenesulfonamide | COCCNC1=C(C=C(C=C1)S(=O)(=O)N)S(=O)(=O)C(F)(F)F | C10H13F3N2O5S2
